US05672709
3-Chloro-4-ethylsulfonyl-1,2,5-thiadiazole
A solution of Oxone (84 g, 0.137 mol) in H2O (400 mL) was rapidly stirred as 3-chloro-4-ethylthio-1,2,5-thiadiazole (12.2 g, 0.067 mol) in THF (200 mL) was added. After stirring overnight, the THF was evaporated and the residue extracted with ether (3×). The extracts were washed with H2O, aqueous NaHCO3, and brine then the solvent dried and evaporated to give a clear liquid (13.6 g). (Compound 4).

reactant | Oxone | 0.137 mol, 84 g | OOS(=O)[O-].[K+]
reactant | 3-chloro-4-ethylthio-1,2,5-thiadiazole | 0.067 mol, 12.2 g | ClC1=NSN=C1SCC | C4H5ClN2S2
reactant | H2O | 400 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-Chloro-4-ethylsulfonyl-1,2,5-thiadiazole | 13.6 g | ClC1=NSN=C1S(=O)(=O)CC | C4H5ClN2O2S2
